US04415572
8-Amino-3,4-dihydrocarbostyril (7.5 g, 46.2 mmols) and bis(β-bromoethyl)amine hydrobromide (15.9 g, 50.8 mmols) were suspended in methanol and the suspension was heated under reflux while stirring for 9 hours. After adding 2.5 g of sodium carbonate, the reaction mixture was further heated under reflux for 8 hours while stirring, and stirred on an ice bath for 1 hours. Crystals which precipitated were collected by filtration. The crude crystals thus obtained were recrystallized from methanol-ether to give 2.4 g of 8-(1-piperazinyl)-3,4-dihydrocarbostyril hydrobromide, m.p. above 300° C., colorless needles.

reactant | 8-Amino-3,4-dihydrocarbostyril | 46.2 mmols, 7.5 g | NC=1C=CC=C2CCC(NC12)=O | C9H10N2O
reactant | bis(β-bromoethyl)amine hydrobromide | 50.8 mmols, 15.9 g | Br.BrCCNCCBr
reactant | sodium carbonate | 2.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
product | 8-(1-piperazinyl)-3,4-dihydrocarbostyril hydrobromide | 2.4 g | Br.N1(CCNCC1)C=1C=CC=C2CCC(NC12)=O | InChI=1S/C13H17N3O.BrH/c17-12-5-4-10-2-1-3-11(13(10)15-12)16-8-6-14-7-9-16;/h1-3,14H,4-9H2,(H,15,17);1H
